US05292767
trans-2-benzylthiomethyl-4-ethoxycarbonyltetrahydrothiophene (compound No. 25-1)
To a stirred solution of trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene (compound No. 15-1, 0.3 g) in ethanol (2 ml), sodium ethoxide (0.11 g) is added under nitrogen atmosphere and ice-cooling and the mixture is stirred for 30 minutes. Benzyl bromide (0.28 g) dissolved in ethanol (1 ml) was added to the mixture and the mixture is stirred for 30 minutes under ice-cooling and 1 hour at room temperature. Benzene is added to the reaction mixture. The organic layer is washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue is purified by a silica gel column chromatography to give titled compound (compound No. 25-1).

reactant | trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene | C(C)OC(=O)[C@H]1C[C@@H](SC1)CS | C8H14O2S2
reactant | sodium ethoxide | 0.11 g | [O-]CC.[Na+]
reactant | Benzyl bromide | 0.28 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | trans-2-benzylthiomethyl-4-ethoxycarbonyltetrahydrothiophene | C(C1=CC=CC=C1)SC[C@@H]1SC[C@H](C1)C(=O)OCC | C15H20O2S2
